US05403842
A solution of 5.4 g of 2-(3-chloropropyl)-dioxolan and 15.9 g of 1-(2-methoxyphenyl)-piperazine in 60 ml of dimethylformamide was stirred at 80° C. for 4 hours. After cooling to 20°-25° C., the reaction mixture was poured into 500 ml of ice cold 0.5N sodium hydroxide solution and extracted with dichloromethane. The organic phase was washed with water and dried on anhydrous sodium sulfate. The solvent was removed in vacuo, and the residue was purified by flash chromatography on silica gel, eluting with dichloromethane:ethanol 95:5. 9.8 g of 2-{3-[4-(2-methoxyphenyl)-1-piperazinyl]-propyl}-dioxolan was obtained as an oil.

reactant | 2-(3-chloropropyl)-dioxolan | 5.4 g | ClCCCC1OCCO1 | C6H11ClO2
reactant | 1-(2-methoxyphenyl)-piperazine | 15.9 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 2-{3-[4-(2-methoxyphenyl)-1-piperazinyl]-propyl}-dioxolan | 9.8 g | COC1=C(C=CC=C1)N1CCN(CC1)CCCC1OCCO1 | C17H26N2O3
